US06632826B1
5-(2-Benzenesulfonyl-5-methoxycarbonyl-3-methylene-cyclopentylmethyl)-4-benzyl-2,2-dimethyl-oxazolidine-3-carboxylic Acid tert-Butyl Ester
A solution of (2-Bromomethyl-prop-2-ene-1-sulfonyl)-benzene (25.4 g, 92.5 mmol) in dry tetrahydrofuran (500 ml) was stirred at −78° C. under nitrogen during the addition of lithium diisopropyl amide (2M in hexanes, 46.3 ml, 92.5 mmol). The resulting mixture was stirred at −78° C. for 15 minutes and 4-Benzyl-5-(3-methoxycarbonyl-allyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (30 g, 77 mmol) in dry tetrahydrofuran (150 ml) then added via a cannula over 5 minutes. The resulting mixture was stirred at −78° C. for 2 hours, then quenched with saturated aqueous ammonium chloride solution and warmed to room temperature. After addition of brine and ethyl acetate, the phases were separated and the aqueous layer extracted with ethyl acetate. The combined organic layers were washed with brine, dried (anhydrous magnesium sulfate) and concentrated in vacuo to give, after purification by flash chromatography on silica gel (ethylacetate/hexane: 1/9 to 4/6) 5-(2-Benzenesulfonyl-5-methoxycarbonyl-3-methylene-cyclopentylmethyl)-4-benzyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester 41 g (89%) as a white foam. Mass spectrum 584 [M+H]+.

reactant | (2-Bromomethyl-prop-2-ene-1-sulfonyl)-benzene | 92.5 mmol, 25.4 g | BrCC(CS(=O)(=O)C1=CC=CC=C1)=C | C10H11BrO2S
reactant | lithium diisopropyl amide | 92.5 mmol, 2M, 46.3 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-Benzyl-5-(3-methoxycarbonyl-allyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 77 mmol, 30 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC=CC(=O)OC)(C)C | C22H31NO5
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-(2-Benzenesulfonyl-5-methoxycarbonyl-3-methylene-cyclopentylmethyl)-4-benzyl-2,2-dimethyl-oxazolidine-3-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(C(CC1C(=O)OC)=C)S(=O)(=O)C1=CC=CC=C1)(C)C | C32H41NO7S
